US05753679
0.5 g (0.0026 mol) of 1-benzyl-4-hydroxypiperidine and 0.64 ml (0.0046.mol). of triethylamine were dissolved in 20 ml of toluene and treated with 0.32 ml (0.0027 mol) of 2-fluoro-benzoyl chloride. The mixture was boiled at reflux for 6 hrs., the precipitate was filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel with ethyl acetate/hexane (1:1). 0.68 g (83%) of 1-benzyl-piperidin-4-yl 2-fluoro-benzoate was obtained as a colorless oil.

reactant | 1-benzyl-4-hydroxypiperidine | 0.0026 mol, 0.5 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-benzoyl chloride | 0.0027 mol, 0.32 ml | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 2-fluoro-benzoate | 0.68 g, 83% | FC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C19H20FNO2
